US03975310
Trans-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1,2-epoxycyclohexane
21 g. of 40 % peracetic acid and 0.6 g. of sodium acetate were added under nitrogen to a suspension of 2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene (19.4 g.) and 12 g. of sodium acetate in 35 ml. of CH2Cl2 at 20°. The reaction mixture was left 2 more hours with stirring and it was then poured into 250 ml. of water.

reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene | 19.4 g | CC1=C(C(CCC1)(C)C)C(C=CC)O | C13H22O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Trans-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1,2-epoxycyclohexane | CC12C(C(CCC1)(C)C)(O2)C(\C=C\C)O | C13H22O2
